US05286737
Preparation of methyl 1-(p-Fluoro benzyl)-2-oxocyclopentanecarboxylate
To a stirred suspension of n-hexane-washed sodium hydride (0.94 g, 39.0 mmol, 1.3 eq) there was added a solution of ethoxyethyl 2-oxocyclopentane-carboxylate (4.26 g, 30.0 mmol, 1.0 eq) in DMF (15 ml) at 0° C. The resulting solution was warmed to room temperature and then stirred for 30 min: the solution became orange. After terminal evolution of hydrogen had been confirmed, p-fluorobenzyl bromide (6.80 g, 36.0 m mol, 1.2 eq) was added to the resulting solution at 0° C. The reaction mixture was then warmed to room temperature and stirred overnight.

reactant | sodium hydride | 39.0 mmol, 0.94 g, 1.3 eq | [H-].[Na+]
reactant | ethoxyethyl 2-oxocyclopentane-carboxylate | 30.0 mmol, 4.26 g, 1.0 eq | O=C1C(CCC1)C(=O)OCCOCC | C10H16O4
reactant | hydrogen | [H][H] | H2
reactant | p-fluorobenzyl bromide | 6.80 g, 1.2 eq | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | methyl 1-(p-Fluoro benzyl)-2-oxocyclopentanecarboxylate | FC1=CC=C(CC2(C(CCC2)=O)C(=O)OC)C=C1 | C14H15FO3
